US04223149
To 2500 ml of isopropyl alcohol heated to reflux was added with stirring 300 g of 3-dimethylamino-2-(4-pyridinyl)-2-propen-1-one [same as α-(4-pyridinyl)-β-(dimethyl-amino)acrolein]. To the resulting mixture was added 500 ml of a solution containing 138 g of malonontrile, 1500 ml of isopropyl alcohol and 100 ml of water. The temperature was brought back to reflux in about 10 minutes and then the remainder of the malononitrile solution was added from a dropping funnel over a period of about 25 minutes. The reaction mixture was stirred at reflux for additional 35 minutes and the resulting orange suspension was cooled to 3° C. The precipitated solid was collected by filtration and the filter cake was washed with four 100 ml portions of cold isopropyl alcohol. The solid was then dried at 40° C. in vacuo overnight (about 15 hours) and then for two hours at 60° C. to yield 245 g of 5-cyano[3,4'-bipyridin]-6(1H)-one [same as 1,2-dihydro-2-oxo-5-(4-pyridinyl)nicotinonitrile], m.p.>300° C. The nuclear magnetic resonance spectrum of this product was consistent with that of the same product prepared by another method. The filtrate was concentrated in vacuo to about 500 ml volume and cooled in an ice bath. A total of 40 g of a second crop material was obtained, m.p.>300° C.

reactant | isopropyl alcohol | 2500 ml | C(C)(C)O | C3H8O
reactant | 3-dimethylamino-2-(4-pyridinyl)-2-propen-1-one | 300 g | CN(C=C(C=O)C1=CC=NC=C1)C | C10H12N2O
reactant | isopropyl alcohol | 1500 ml | C(C)(C)O | C3H8O
reactant | malononitrile | C(CC#N)#N | C3H2N2
solvent | water | 100 ml | O | H2O
product | 5-cyano[3,4'-bipyridin]-6(1H)-one | 245 g | C(#N)C1=CC(=CNC1=O)C1=CC=NC=C1 | C11H7N3O
